### PR TITLE
[Merged by Bors] - fix: example of GL(V) being a Lie group

### PR DESCRIPTION
**Pull request by grunweg**
The doc-string was missing a smoothness parameter. Fix this, and copy-paste this example into the file to ensure it does not regress in the future.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/Instances/UnitsOfNormedAlgebra.lean [hunk 1]
```diff
@@ -21,13 +21,12 @@ over a field `𝕜`, the `𝕜`-linear endomorphisms of `V` are a normed `𝕜`-
 its group of units, the general linear group GL(`𝕜`, `V`), as demonstrated by:
 ```
 example {V : Type*} [NormedAddCommGroup V] [NormedSpace 𝕜 V] [CompleteSpace V] :
-    LieGroup 𝓘(𝕜, V →L[𝕜] V) (V →L[𝕜] V)ˣ := inferInstance
+    LieGroup 𝓘(𝕜, V →L[𝕜] V) 5 (V →L[𝕜] V)ˣ := inferInstance
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/Instances/UnitsOfNormedAlgebra.lean]: I am very confused by the value `5` here, is this deliberate!?

File: Mathlib/Geometry/Manifold/Instances/UnitsOfNormedAlgebra.lean [hunk 2]
```diff
@@ -76,4 +75,8 @@ instance : LieGroup 𝓘(𝕜, R) n Rˣ where
     rw [contMDiffAt_iff_contDiffAt]
     exact contDiffAt_ringInverse _ _
 
+
+example {V : Type*} [NormedAddCommGroup V] [NormedSpace 𝕜 V] [CompleteSpace V] :
+    LieGroup 𝓘(𝕜, V →L[𝕜] V) 2 (V →L[𝕜] V)ˣ := inferInstance
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/Instances/UnitsOfNormedAlgebra.lean]: Again I'm a bit surprised by the literal. Could this be:
```suggestion
example {V : Type*} [NormedAddCommGroup V] [NormedSpace 𝕜 V] [CompleteSpace V] (n : WithTop ℕ∞) :
    LieGroup 𝓘(𝕜, V →L[𝕜] V) n (V →L[𝕜] V)ˣ := inferInstance
```

File: Mathlib/Geometry/Manifold/Instances/UnitsOfNormedAlgebra.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Instances/UnitsOfNormedAlgebra.lean]: No, it could equally be 0, 1, n or \infty. Which one do you prefer?

File: Mathlib/Geometry/Manifold/Instances/UnitsOfNormedAlgebra.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Instances/UnitsOfNormedAlgebra.lean]: Sure!

File: Mathlib/Geometry/Manifold/Instances/UnitsOfNormedAlgebra.lean [hunk 3]
```diff
@@ -21,13 +21,12 @@ over a field `𝕜`, the `𝕜`-linear endomorphisms of `V` are a normed `𝕜`-
 its group of units, the general linear group GL(`𝕜`, `V`), as demonstrated by:
 ```
 example {V : Type*} [NormedAddCommGroup V] [NormedSpace 𝕜 V] [CompleteSpace V] :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Instances/UnitsOfNormedAlgebra.lean]:
```suggestion
example {V : Type*} [NormedAddCommGroup V] [NormedSpace 𝕜 V] [CompleteSpace V] (n : WithTop ℕ∞) :
```

File: Mathlib/Geometry/Manifold/Instances/UnitsOfNormedAlgebra.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Instances/UnitsOfNormedAlgebra.lean]:
```suggestion
    LieGroup 𝓘(𝕜, V →L[𝕜] V) n (V →L[𝕜] V)ˣ := inferInstance
```

File: Mathlib/Geometry/Manifold/Instances/UnitsOfNormedAlgebra.lean [hunk 4]
```diff
@@ -76,4 +75,8 @@ instance : LieGroup 𝓘(𝕜, R) n Rˣ where
     rw [contMDiffAt_iff_contDiffAt]
     exact contDiffAt_ringInverse _ _
 
+
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Instances/UnitsOfNormedAlgebra.lean]:
```suggestion
```
